*****************==== Inverter ====*******************
*********** VDMOS inverter dc  ****************************
vdd 1 0 5
vss 4 0 0

.subckt inv out in vdd vss
mp1 out in vdd vdd p1
mn1 out in vss vss n1
.ends

xinv 3 2 1 4 inv

Vin 2 0 0

.dc Vin 0 5 0.05

.control

run

* current and output in a single plot
plot v(2) v(3) vss#branch

.endc

*.model  N1  vdmosn ; nmos level=1
*.model  P1  vdmosp ; pmos level=1
.model  N1  vdmos cgdmin=0.2p cgdmax=1p a=2 cgs=0.5p rg=5k
.model  P1  vdmos cgdmin=0.2p cgdmax=1p a=2 cgs=0.5p rg=5k pchan
.end
